US08293744B2
Step 3: Preparation of ethyl 1-[(6-chloropyridin-3-yl)methyl]-4-thioxo-1,4-dihydropyrido[2,3-c]pyridazine-3-carboxylate:
Ethyl 1-[(6-chloropyridin-3-yl)methyl]-4-oxo-1,4-dihydropyrido[2,3-c]pyridazine-3-carboxylate (490 mg, 1.42 mmol) was suspended in toluene (5 mL) and dioxane (5 mL) and placed into a preheated oil bath at 110° C. The mixture was treated with Lawesson's Reagent (316 mg, 0.782 mmol, 0.55 equiv) portionwise over 45 minutes and stirred for an addition 30 minutes at 110° C. The mixture was cooled to ambient temperature and concentrated in vacuo. The residue was purified by silica gel gradient chromatography (100:0 to 50:50; hexanes:ethyl acetate), providing the titled compound as a brown foam.

reactant | Ethyl 1-[(6-chloropyridin-3-yl)methyl]-4-oxo-1,4-dihydropyrido[2,3-c]pyridazine-3-carboxylate | 1.42 mmol, 490 mg | ClC1=CC=C(C=N1)CN1N=C(C(C2=C1N=CC=C2)=O)C(=O)OCC | C16H13ClN4O3
reactant | dioxane | 5 mL | O1CCOCC1 | C4H8O2
reactant | Lawesson's Reagent | 0.782 mmol, 316 mg, 0.55 equiv | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | ethyl 1-[(6-chloropyridin-3-yl)methyl]-4-thioxo-1,4-dihydropyrido[2,3-c]pyridazine-3-carboxylate | ClC1=CC=C(C=N1)CN1N=C(C(C2=C1N=CC=C2)=S)C(=O)OCC | C16H13ClN4O2S
